data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,393,"C[Si:1](C)(C)F.[Cl-:2]|(2, 1)"
train,pmechdb_split_0,0,9384,"CC(C)O[P:1](F)(OC(C)C)=[O:2].CNC(C[O-:3])C(=O)OC|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2537,"C=C(C)[CH2:1][Br:2].N#[C-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7237,"CC(C)=C[CH2+:1].CC1=CC=C(S(=O)(=O)[O-])C=C1.CCCCCC1=C[C:2](O)=[CH:3]C(O)=C1.O|((2, 3), 1)"
train,pmechdb_split_0,0,2637,"CC(C)[O-].CCCCCC1CC[C:1]([H:2])([O:3][Al-]([O]C(C)C)([O]C(C)C)[O+:4]=[C:5](C)C)C(CCCCC)C1|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,8493,"C[P-:1]1(C)(=O)[CH2:2][CH2:3][O:4]1|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8275,"CC1=CC=C(S(=O)(=O)[O-])C=C1.COC(O)(C1(C)CCC2=C(C)C(O)=C(C)C(C)=C2O1)[OH:1].C[OH+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,280,"CCO.CC[N:1](CC)[S:2](F)(F)[F:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3565,"CC[OH:1].CN[C:2](CC#N)=[OH+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6624,"CC(=O)CC[CH:1]=[C:2](C)[O-:3].[H:4][OH2+:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,1274,"BrCCC[CH2:1][Br:2].N#[C-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5353,"C[C:1](C1=C(F)C=CC=C1)([CH:2]=[C:3](C1=C(F)C=CC=C1)[O-:4])[OH:5]|(4, 3);((3, 2), 1);((1, 5), 5)"
train,pmechdb_split_0,0,7297,"C=C(O[Si](C)(C)C)C1=CC=CC=C1.CC(C)C=[O:1].C[Si:2](C)(C)OS(=O)(=O)C(F)(F)F|(1, 2)"
train,pmechdb_split_0,0,5838,"CC(=O)NC1=CC=C([NH2:1])C=C1.[N:2]#[O+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9702,"CC1(C)C2C[CH2:1][C:2](C)(C2)[C+:3]1C1=C(N)C=C(Cl)C=C1.CO.[Cl-]|((2, 1), 3)"
train,pmechdb_split_0,0,5574,"[H:1][OH2+:2].[NH3:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1574,"CCO.O=S(=O)(O)[O:1][H:2].OC(C(O)C1=CC=CC=C1)=[O:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2892,"O=[N+]([O-])C1=CC2=C(C=C1)C=C[CH+:1][C:2]2(Br)[H:3].[Br-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,5492,"CC[Si](C=CC[Si](C)(C)C)(CC)OC(CC=[O+][Si-:1](C)(C)(C)[CH2:2][CH+:3]C1C(O[Si](C)(C)C)CC(C2=CC=CC=C2)O[Si]1(CC)CC)C1=CC=CC=C1|((1, 2), 3)"
train,pmechdb_split_0,0,6655,"CC1=CC=C(S(=O)(=O)[O-:1])C=C1.CC1=CC=C([NH+:2](C(O)C2=COC3=C(C=CC=C3)C2=O)[H:3])C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7031,"CCOC(=O)NN(C(OCC)=[O:1])P(OCC1=CC(OC2=CC=CC=C2)=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C(CCCC(F)=C(F)F)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5352,"C([CH2:1][Br:2])[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5390,"CC1=C(CCO)SC=[N+]1CC1=CC=C(CC[N+]2=C(C(C3=CC=C(F)C=C3)(C(C3=CC=CS3)[CH:1]=[C:2](C3=CC=CC=C3)[O-:3])[O:4][H:5])SC(CCO)=C2C)C=C1.CCO.CC[NH+](CC)CC.[Br-]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,7816,"C1=CC=NC=C1.CC(C)=O.CC1(O)CC[C:1]2(CC1)[OH+:2]CC[O:3]2.CC1=CC=C(S(=O)(=O)[O-])C=C1.O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2476,"CC[N:1]([Li-][O+:2]1C2CCCCC[CH:3]([H:4])[CH:5]21)CC|(1, 4);((4, 3), 5);((5, 2), 2)"
train,pmechdb_split_0,0,258,"CC(C)(C)C(OS(=O)(=O)C(F)(F)F)=[N+:1](O[Si](C)(C)C)[H:2].CC[N:3](CC)CC.O=S(=O)([O-])C(F)(F)F|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5244,"CC(CC#N)[O-:1].CC[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2623,"C=CC1=CC=C(C(OC)=[O+:1][H:2])C=C1.CO.O=S(=O)([O-])O.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9591,"C[N+:1](C)=[CH:2]N.C[OH:3].[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2042,"C[O+:1]([PH](Br)(Br)Br)[H:2].C[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8118,"CC1=C[CH:1]([H:2])[C:3](C2=CC=CC=C2)=[O+:4]1.O=S(=O)([O-])O.[OH2:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7630,"C[OH:1].N[CH:2]=[NH2+:3].[Cl-]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6025,"CCC(=O)O[C+:1]1C=C[C:2](C(C)C)([H:3])[CH:4]=[CH:5]1.[F-:6]|(6, 3);((3, 2), 4);((4, 5), 1)"
train,pmechdb_split_0,0,8653,"C1CCNCC1.CC(=O)[O-:1].COC(CC=CC1=CC=CC=C1)=[O+:2][H:3].O.O=C=O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,878,"C[C:1](C)=[Cl+:2].[Cl-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1999,"CC(=O)[O-].CCN(CC)CC.COC1=C([N+](=O)[O-])C=CC(N2CC[C:1]([N:2]3CCCC(O)C3)([OH2+:3])CC2)=C1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9872,"CC(C)[O-:1].C[CH:2]([H:3])[CH2:4][Br:5]|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,370,"CN1CCC23C4=C5C=CC([O+](C)[B-:1](Br)(Br)[Br:2])=C4OC2C(=O)CCC3(O)C1C5|((1, 2), 2)"
train,pmechdb_split_0,0,10079,"CCCC1=CC=CC([O+](C)[B-:1](Br)(Br)[Br:2])=C1|((1, 2), 2)"
train,pmechdb_split_0,0,7316,"CC#[C-:1].O=P(O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1879,"CCOC(O)(CCO[Si](C)(C)C)[OH:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8037,"CC[C+:1](C(C)=O)[C:2](C)(C)[Si-:3](C)(C)(C)[O+]=C(C)O[B-](F)(F)F|((3, 2), 1)"
train,pmechdb_split_0,0,10287,"CC1=CC2=C(C(C)C)CC([OH+:1][Sn-:2]([Cl])([Cl])([Cl])[Cl])C2(C)CCC1.[Cl-]|((2, 1), 1)"
train,pmechdb_split_0,0,9771,"CCOC(O)(CCC(=O)NC)[NH:1]CC.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4362,"C1=CC=C([CH:1]=[O:2])C=C1.CC1=N[CH:3]=[C:4]([O-:5])O1|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,9844,"CCO[C:1]([C:2]1([H:3])CCCC1=O)=[O:4].CC[O-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
